US07846960B2
4-{[(4-Hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-benzoic Acid Methyl Ester
To an ambient temperature solution of 4-amino-3-methyl-phenol (1.0 g, 8.12 mmol) in MeOH (77 mL) is added 4-formyl-benzoic acid methyl ester (1.47 g, 8.93 mmol) and decaborane (329 mg, 2.68 mmol). The reaction is stirred at room temperature. After 2 h, formaldehyde (1.23 mL, 16.93 mmol, 37% in water) and decaborane (329 mg, 2.68 mmol) are added and the reaction is stirred overnight. The reaction is concentrated under reduced pressure and the residue is purified via chromatography to yield the title compound (2.07 g, 90%). LC-ES/MS m/e 286.2 (M+1)

reactant | 4-amino-3-methyl-phenol | 8.12 mmol, 1.0 g | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | 4-formyl-benzoic acid methyl ester | 8.93 mmol, 1.47 g | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | decaborane | 2.68 mmol, 329 mg | [B][B][B][B][B][B][B][B][B][B] | B10
reactant | formaldehyde | 16.93 mmol, 1.23 mL | C=O | CH2O
reactant | decaborane | 2.68 mmol, 329 mg | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | MeOH | 77 mL | CO | CH4O
product | 4-{[(4-Hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-benzoic Acid Methyl Ester | 2.07 g, 90% | COC(C1=CC=C(C=C1)CN(C)C1=C(C=C(C=C1)O)C)=O | C17H19NO3
